US05830892
Methanesulfonyl chloride (0.26 ml, 0.39 g, 3.4 mmol) was added dropwise to a stirred, cooled (-30° C.) solution of 3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)phenylmethanol (725 mg, 2.8 mmol) and triethylamine (0.59 ml, 0.43 g, 4.2 mmol) in dichloromethane (15 ml). The mixture was stirred at -30° C. for 45 minutes, diluted with dichloromethane (20 ml), washed with aqueous citric acid (10%, 20 ml) and saturated aqueous sodium hydrogen carbonate (20 ml), dried (MgSO4) and the solvent was evaporated under reduced pressure to give 1-(methanesulfonyloxymethyl)-3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)benzene as a yellow oil (877 mg, 93%), 1H (CDCl3) δ 7.86 (1H, s), 7.81 (2H, s), 5.38 (2H, s), 3.14 (3H, s), and 2.69 (3H, s).

reactant | Methanesulfonyl chloride | 3.4 mmol, 0.26 ml, 0.39 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)phenylmethanol | 2.8 mmol, 725 mg | CC1=NN=NN1C=1C=C(C=C(C1)C(F)(F)F)CO | C10H9F3N4O
reactant | triethylamine | 4.2 mmol, 0.59 ml, 0.43 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(methanesulfonyloxymethyl)-3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)benzene | 877 mg, 93% | CS(=O)(=O)OCC1=CC(=CC(=C1)C(F)(F)F)N1N=NN=C1C | C11H11F3N4O3S
